US08871782B2
A mixture of tert-butyl 4-[7-(benzyloxy)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butylcarbamate (15 g, 29.7 mmol) and 10% palladium on carbon (4.5 g, wetted with ethanol) in 1:1 ethanol/methanol (400 mL) was hydrogenated using a Parr apparatus at 28 psi (1.9×105 Pa) for 16 hours. The mixture was filtered through CELITE filter agent, which was subsequently washed with methanol. The filtrate was concentrated under reduced pressure to afforded 10.8 g of tert-butyl 4-[2-(ethoxymethyl)-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl]butylcarbamate as a green-yellow solid.

reactant | tert-butyl 4-[7-(benzyloxy)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butylcarbamate | 29.7 mmol, 15 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCNC(OC(C)(C)C)=O)COCC | C29H36N4O4
catalyst | palladium on carbon | 4.5 g | [Pd] | Pd
solvent | ethanol methanol | 400 mL | C(C)O.CO
product | tert-butyl 4-[2-(ethoxymethyl)-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl]butylcarbamate | 10.8 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CCCCNC(OC(C)(C)C)=O | C22H30N4O4
